US04742068
b. Methyl 1,4-dihydro-4,4-dimethyl-1-pyridinebutanoate
Under nitrogen, 5.89 g (0.046 mole) of 3,3-dimethylglutaraldehyde, 7.03 g (0.0457 mole) of methyl 4-aminobutanoate hydrochloride (the compound of Example 9a), and 9 g of 5A molecular sieves were combined in 425 ml of chloroform at room temperature. 7.0 ml (0.05 mole) of triethylamine were added to the reaction mixture before it was warmed to reflux. After 21 hours the reaction mixture was cooled to room temperature, filtered, and the filtrate evaporated in vacuo. The residue was suspended in about 300 ml of ethyl ether and filtered. The filtrate was evaporated in vacuo to yield 8.56 g of crude product. The crude product was distilled to yield 2.5 g of the title compound as a clear liquid, bp 95° C./0.2 mm Hg.

reactant | 3,3-dimethylglutaraldehyde | 0.046 mole, 5.89 g | CC(CC=O)(CC=O)C | C7H12O2
reactant | methyl 4-aminobutanoate hydrochloride | 0.0457 mole, 7.03 g | Cl.NCCCC(=O)OC
reactant | triethylamine | 0.05 mole, 7.0 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 425 ml | C(Cl)(Cl)Cl | CHCl3
product | Methyl 1,4-dihydro-4,4-dimethyl-1-pyridinebutanoate | 2.5 g | CC1(C=CN(C=C1)CCCC(=O)OC)C | C12H19NO2
